US07173151B2
(cis-3-Allylcyclohexyloxy)-tert-butyl-diphenylsilane
6.8 g of cis-3-allylcyclohexanol and 15 ml of tert-butyldiphenylsilyl chloride, 5 g of imidazole and 200 mg of dimethylaminopyridine are dissolved in 100 ml of dimethylformamide and stirred at room temperature for 12 hours. 400 ml of methyl tert-buthyl ether are added to the reaction mixture, and the mixture is washed three times with water. The organic phase is dried over magnesium sulfate and the solvent is then removed under reduced pressure. This gives 20.5 g of (cis-3-allylcyclohexyloxy)tert-butyl-diphenylsilane as an oil. C25H34OSi (378.64), MS(ESI): 379 (M+H+), Rf(n-heptane:ethyl acetate=2:1)=0.93.

reactant | cis-3-allylcyclohexanol | 6.8 g | C(C=C)[C@H]1C[C@H](CCC1)O | C9H16O
reactant | tert-butyldiphenylsilyl chloride | 15 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 5 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | 200 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (cis-3-Allylcyclohexyloxy)-tert-butyl-diphenylsilane | C(C=C)[C@H]1C[C@H](CCC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H34OSi
